US06982274B2
tert-Butyl 3-bromo-5-cyano-1H-1-indazolecarboxylate
To a solution of 6.25 g of 3-bromo-1H-5-indazolecarbonitrile in 100 ml tetrahydrofuran at room temperature were added 6.76 g of di-tert-butyl dicarbonate and 516 mg of 4-(dimethylamino)pyridine, and the mixture was stirred at the same temperature overnight. After removing the solvent by distillation, the residue was added with 220 ml of ethyl acetate. The mixture was sequentially washed with diluted hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 8.69 g of the title compound as pale red crystals.

reactant | 3-bromo-1H-5-indazolecarbonitrile | 6.25 g | BrC1=NNC2=CC=C(C=C12)C#N | C8H4BrN3
reactant | di-tert-butyl dicarbonate | 6.76 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 516 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl 3-bromo-5-cyano-1H-1-indazolecarboxylate | 8.69 g | BrC1=NN(C2=CC=C(C=C12)C#N)C(=O)OC(C)(C)C | C13H12BrN3O2
